US04482438
The same reaction was tried in a modified cell, without the crank 23. 2 g (14 mmol) of 1-methylnaphthalene in 3 g of tributylphosphate was allowed to react for 40 hours with electrochemically produced Co(III) sulphate at 40°-45° C. The electrolyte solution was composed of 0.12M Co(II) sulphate in 2M H2SO4. The current was 200 mA. The organic material isolated from this run was placed on a silica gel column, which was eluted with a solution of 5% ether in petroleum ether (bp=60°-80° C.). The initial band consisted of 860 mg (6 mmol, 43%) of starting material. The second band yielded 447 mg (2.9 mmol) of 1-naphthaldehyde. The aldehyde yield was 36% based on consumed starting material. The aldehyde yield was 36% based on consumed starting material. The infrared spectrum of the product was identical to that of an authentic sample.

reactant | 1-methylnaphthalene | 14 mmol, 2 g | CC1=CC=CC2=CC=CC=C12 | C11H10
reactant | tributylphosphate | 3 g | C(CCC)OP(=O)(OCCCC)OCCCC | C12H27O4P
solvent | H2SO4 | 2M | OS(=O)(=O)O | H2O4S
product | 1-naphthaldehyde | 2.9 mmol, 447 mg | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
